US07183287B2
Step 1: Preparation of 3-benzyl-6-(benzyloxy)-pyrimidin-4(3H)-one
4,6-dihydroxypyrimidine (25.0 g, 0.223 mol) and potassium carbonate (65.1 g, 0.471 mol) are combined in 0.5 L anhydrous dimethylformamide. Benzyl chloride (55.7 g, 0.439 mol) is added dropwise over 30 minutes with stirring. After 4 h the solution is filtered, and the filtrate concentrated in vacuo. The residue is washed with acetonitrile, and the product is collected as a white solid by filtration (44.6 g, 68%). 1H-NMR (400 MHz, DMSO-d6) δ 8.06 (m, 2 H), 7.61 (quartet, J=8.45 Hz, 1H), 7.30 (t, J=10.37 Hz, 1H), 7.12, (t, J=8.45 Hz, 1H), 7.09 (d, J=5.06 Hz, 2H), 5.14 (s, 2H). LC/MS tr=5.29 minutes (0–95% acetonitrile/water, 0.05% trifluoroacetic acid, over 6 minutes at 1 ml/min with detection at 215 nm, at 50° C.) ES-MS m/z 293 (M+H).

reactant | 4,6-dihydroxypyrimidine | 0.223 mol, 25.0 g | OC1=NC=NC(=C1)O | C4H4N2O2
reactant | potassium carbonate | 0.471 mol, 65.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl chloride | 0.439 mol, 55.7 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 0.5 L | CN(C=O)C | C3H7NO
product | 3-benzyl-6-(benzyloxy)-pyrimidin-4(3H)-one | C(C1=CC=CC=C1)N1C=NC(=CC1=O)OCC1=CC=CC=C1 | C18H16N2O2
